US04293696
2-Mercaptoimidazo[4,5-b]pyridine
To 25.25 g (0.23 m) of 2,3-diaminopyridine in water is added an aqueous solution of 31.9 g (0.57 m) KOH, followed by 35 g (0.46 m) carbon disulfide. The mixture is heated to reflux for 5 hours, after which the hot mixture is filtered and the filtrate cooled. The cold solution is acidified with acetic acid and the solid is collected, washed with water and air-dried. The crude material is recrystallized in ethanol (3500 ml) with carbon. The recrystallized material weighs 19 g (55% yield).

reactant | 2,3-diaminopyridine | 25.25 g | NC1=NC=CC=C1N | C5H7N3
reactant | KOH | 31.9 g | [OH-].[K+]
reactant | carbon disulfide | 35 g | C(=S)=S | CS2
solvent | water | O | H2O
product | 2-Mercaptoimidazo[4,5-b]pyridine | 55% yield | SC=1NC=2C(=NC=CC2)N1 | C6H5N3S
